US06432993B1
(12-2) 5-{4-(1-Methyl-6-[2-(piperidin-1-yl)phenoxy]-1H-benzimidazole-2-ylmethoxy)benzyl}thiazolidine-2,4-dione dihydrochloride
A mixture of t-Butyl N-{2-[4-(2,4-dioxothiazolidine 5-ylmethyl)phenoxyacetylamino]-5-[2-(piperidin-1-yl)phenoxy]phenyl}-N-methylcarbamate (1.80 g) and 4N hydrogen chloride/dioxane (20 ml) was stirred at ambient temperature for 19 hours. The solvent of the reaction mixture was evaporated to dryness. Ethyl acetate was added to the residue and insoluble product was collected by filtration and subjected to reversed-phase high performance liquid chromatography using acetonitrile/water=1/1 as the eluant and then treated with 4N hydrogen chloride/ethyl acetate to give the title compound (0.47 g).

reactant | t-Butyl N-{2-[4-(2,4-dioxothiazolidine 5-ylmethyl)phenoxyacetylamino]-5-[2-(piperidin-1-yl)phenoxy]phenyl}-N-methylcarbamate | 1.80 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=C(C=CC=C2)N2CCCCC2)N(C(OC(C)(C)C)=O)C)C=C1 | C35H40N4O7S
reactant | hydrogen chloride dioxane | 4N, 20 ml | Cl.O1CCOCC1
product | 5-{4-(1-Methyl-6-[2-(piperidin-1-yl)phenoxy]-1H-benzimidazole-2-ylmethoxy)benzyl}thiazolidine-2,4-dione dihydrochloride | 0.47 g | Cl.Cl.CN1C(=NC2=C1C=C(C=C2)OC2=C(C=CC=C2)N2CCCCC2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | InChI=1S/C30H30N4O4S.2ClH/c1-33-25-18-22(38-26-8-4-3-7-24(26)34-15-5-2-6-16-34)13-14-23(25)31-28(33)19-37-21-11-9-20(10-12-21)17-27-29(35)32-30(36)39-27;;/h3-4,7-14,18,27H,2,5-6,15-17,19H2,1H3,(H,32,35,36);2*1H
